US07700657B2
(d) Ethyl (E)-3-[3-(tert-butyldimethylsilanyloxy)-phenyl]pent-2-enoate
22.5 ml (113 mmol) of triethyl phosphono-acetate are dissolved in 100 ml of THF. 4.5 g (113 mmol) of 60% sodium hydride are then added, and the medium is stirred for 30 minutes at ambient temperature. A solution of 20 g (75.6 mmol) of 3-(tert-butyldimethylsilanyloxy)propan-1-one in 100 ml of THF is then added drop by drop. The medium is stirred for 6 hours, then treated with water and extracted with ethyl acetate. The residue obtained is purified by chromatography on silica gel (eluent ethyl acetate 10-heptane 90). A yellow oil is obtained (m=7.6 g; Y=30%).

reactant | sodium hydride | 113 mmol, 4.5 g | [H-].[Na+]
reactant | 3-(tert-butyldimethylsilanyloxy)propan-1-one | 75.6 mmol, 20 g | [Si](C)(C)(C(C)(C)C)OCCC=O | C9H20O2Si
reactant | water | O | H2O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
product | Ethyl (E)-3-[3-(tert-butyldimethylsilanyloxy)-phenyl]pent-2-enoate | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)/C(=C/C(=O)OCC)/CC | C19H30O3Si
